US05183820
6-Fluoro-2,3,4,5-tetrahydro-5-methyl-2-[(5-methyl-1H-imidazol-4-yl)methyl]-1H-pyrido[4,3-b]indol-1-one
A solution of 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (133 mg) in THF (4 ml) was added dropwise to a stirred solution of 6-fluoro-2,3,4,5-tetrahydro-5-methyl-2-[(5-methyl-1H-imidazol-4-yl)methyl]-1Hpyrido[4,3-b]indole (70 mg) in THF (12 ml) at -10° under nitrogen, and stirring was continued for 4 h. Water (20 ml) was then added, and the resulting solution was left to stand overnight. Excess THF was removed in vacuo, and the resultant aqueous solution was extracted with ethyl acetate (3×50 ml). The combined, dried organic extracts were adsorbed onto silica and purified by FCC eluting with System A (100:10:1) to give the title compound (15 mg), m.p. 231.5°-233°.

reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 133 mg | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | 6-fluoro-2,3,4,5-tetrahydro-5-methyl-2-[(5-methyl-1H-imidazol-4-yl)methyl]-1Hpyrido[4,3-b]indole | 70 mg | FC1=CC=CC=2C3=C(N(C12)C)CCN(C3)CC=3N=CNC3C | C17H19FN4
reactant | Water | 20 ml | O | H2O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | THF | 12 ml | C1CCOC1 | C4H8O
product | 6-Fluoro-2,3,4,5-tetrahydro-5-methyl-2-[(5-methyl-1H-imidazol-4-yl)methyl]-1H-pyrido[4,3-b]indol-1-one | 15 mg | FC1=CC=CC=2C3=C(N(C12)C)CCN(C3=O)CC=3N=CNC3C | C17H17FN4O
